* Test DC sweep on flattened netlist
* Only include the relevant parts to test

.MODEL NMOS NMOS (LEVEL=1 VTO=0.45 KP=200u LAMBDA=0.02 GAMMA=0.4 PHI=0.65)

* Power supply
VDD   vdd  0  DC 1.8

* Source to sweep
Vsrc_p  tx_p_src  0  DC 0.9  

* Simple load
Rs_p  tx_p_src  node1  50
Rload node1 0 1k

* DC sweep
.dc Vsrc_p 0 1 0.05

.control
run
set wr_singlescale
wrdata /tmp/sweep_test.dat node1
print v(tx_p_src) v(node1)
.endc

.end
