* Test DC sweep with op-amp feedback (VGA circuit)

* Ideal op-amp subcircuit
.subckt OPAMP in_p in_n out
E1 out 0 in_p in_n 100k
.ends OPAMP

* VGA circuit
Vin tx_p_src 0 DC 0.5
Rin tx_p_src vg 10k
Rbias vg 0 1Meg

* Op-amp 
X_OP 0 vg vout OPAMP

* Feedback
R0 vout vg 10k

* DC sweep
.dc Vin 0 1 0.1

.control
run
set wr_singlescale
wrdata /tmp/opamp_sweep.dat vout
print v(tx_p_src) v(vout) v(vg)
.endc

.end
